US08034822B2
Compound 14: 2-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-N-(4-methyl-pyridin-2-yl)acetamide
A mixture of 2-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)acetic acid (75 mg, 0.4 mmol), 4-methylpyridin-2-amine (44 mg, 0.4 mmol), HBTU (151 mg, 0.4 mmol) and 0.1 mL of Et3N in DMF (5 mL) was stirred at room temperature for 2 hours to provide the title compound, which was then purified by HPLC. 1H NMR (400 MHz, DMSO-d6) δ: 11.37 (s, 1H), 10.97 (s, 1H), 8.20 (d, J=8.0 Hz, 1H), 7.81 (s, 1H), 7.51 (s, 1H), 7.03 (d, J=8.0 Hz, 1H), 4.58 (s, 2H), 2.33 (s, 3H), 1.77 (s, 3H). [M+H] calc'd for C13H14N4O2, 275; found, 275.

reactant | 2-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)acetic acid | 0.4 mmol, 75 mg | CC=1C(NC(N(C1)CC(=O)O)=O)=O | C7H8N2O4
reactant | 4-methylpyridin-2-amine | 0.4 mmol, 44 mg | CC1=CC(=NC=C1)N | C6H8N2
reactant | HBTU | 0.4 mmol, 151 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-N-(4-methyl-pyridin-2-yl)acetamide | CC=1C(NC(N(C1)CC(=O)NC1=NC=CC(=C1)C)=O)=O | C13H14N4O3
